US07329658B2
Preparation of Intermediate 7-(2-Chlorophenyl)-8-iodo-3H-pyrazolo[1,5-a][1,3,5]triazin-4-one (I-3A-9d)
To a suspension of 7-(2-chlorophenyl)-3H-pyrazolo[1,5-a][1,3,5]-triazin-4-one (I-3A-9c; 2.59 g, 10.5 mmol) in chloroform (115 ml) cooled in an ice bath was added N-iodosuccinimide (2.36 g, 10.5 mmol), portionwise, over 15 minutes. After stirring for 3 hours, the reaction was added to stirring water and methylene chloride. A solution of saturated aqueous Na2S2O4 was added until the color remained light yellow. The solid precipitate that was dispersed in the aqueous phase was collected by vacuum filtration and then dried, in vacuo, to afford intermediate I-3A-9d as a solid (3.78 g, 97%): +APcI MS (M+1) 372.9; 1H NMR (400 MHz, CD3OD) δ 8.05 (s, 1H), 7.55-7.40 (m, 4H).

reactant | 7-(2-chlorophenyl)-3H-pyrazolo[1,5-a][1,3,5]-triazin-4-one | 10.5 mmol, 2.59 g | ClC1=C(C=CC=C1)C1=NN2C(N=CNC2=O)=C1 | C11H7ClN4O
reactant | N-iodosuccinimide | 10.5 mmol, 2.36 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | water | O | H2O
reactant | Na2S2O4 | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
solvent | chloroform | 115 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 7-(2-Chlorophenyl)-8-iodo-3H-pyrazolo[1,5-a][1,3,5]triazin-4-one | 3.78 g, 97% | ClC1=C(C=CC=C1)C1=NN2C(N=CNC2=O)=C1I | C11H6ClIN4O
